US07582651B2
(2E)-3-{1-[bis(4-fluorophenyl)methyl]-3-cyano-4,6-dimethyl-1H-pyrrolo[2,3-b]pyridin-2-yl}-N-(3,3-dimethylbutyl)prop-2-enamide
To a solution of (2E)-3-{1-[bis(4-fluorophenyl)methyl]-3-cyano-4,6-dimethyl-1H-pyrrolo[2,3-b]pyridin-2-yl}prop-2-enoic acid (200 mg, 0.451 mmol) in THF (2 ml) were added DMF (0.020 ml) and oxalylchloride (0.0471 ml, 0.540 mmol), the mixture was stirred at room temperature for 1 hour and the solvent was distilled off under reduced pressure. The residue was added under ice-cooling to a solution of dimethylbutylamine (121 mg, 0.900 mmol), triethylamine (0.251 ml, 1.80 mmol) and THF (2 ml), and the mixture was stirred under ice-cooling for 2 hours and at room temperature for 12 hours. The reaction solution was poured into water and extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The residue was recrystallized from hexane and ethyl acetate. Yield (amount) 190 mg, yield (rate) 74.1%

reactant | (2E)-3-{1-[bis(4-fluorophenyl)methyl]-3-cyano-4,6-dimethyl-1H-pyrrolo[2,3-b]pyridin-2-yl}prop-2-enoic acid | 0.451 mmol, 200 mg | FC1=CC=C(C=C1)C(N1C(=C(C=2C1=NC(=CC2C)C)C#N)/C=C/C(=O)O)C2=CC=C(C=C2)F | C26H19F2N3O2
reactant | oxalylchloride | 0.540 mmol, 0.0471 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethylbutylamine | 0.900 mmol, 121 mg | CN(CCCC)C | C6H15N
reactant | triethylamine | 1.80 mmol, 0.251 ml | C(C)N(CC)CC | C6H15N
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
solvent | DMF | 0.020 ml | CN(C)C=O | C3H7NO
product | (2E)-3-{1-[bis(4-fluorophenyl)methyl]-3-cyano-4,6-dimethyl-1H-pyrrolo[2,3-b]pyridin-2-yl}-N-(3,3-dimethylbutyl)prop-2-enamide | FC1=CC=C(C=C1)C(N1C(=C(C=2C1=NC(=CC2C)C)C#N)/C=C/C(=O)NCCC(C)(C)C)C2=CC=C(C=C2)F | C32H32F2N4O
